US05026712
5,6-Dihydro-3-methyl-8-[4-(2-methyl-lH-imidazol-l-yl)-phenyl]imidazo[1,5-a]pyridine
50 g (0.25 mol) of 4-chloro-4'-fluorobutyrophenone are combined with 130 g (1.58 mol) of 2-methylimidazole and heated to 200° C. under nitrogen for 18 hr. Crystallization from ethyl acetate provides the title compound.

reactant | 4-chloro-4'-fluorobutyrophenone | 0.25 mol, 50 g | ClCCCC(=O)C1=CC=C(C=C1)F | C10H10ClFO
reactant | 2-methylimidazole | 1.58 mol, 130 g | CC=1NC=CN1 | C4H6N2
product | 5,6-Dihydro-3-methyl-8-[4-(2-methyl-lH-imidazol-l-yl)-phenyl]imidazo[1,5-a]pyridine | CC1=NC=C2N1CCC=C2C2=CC=C(C=C2)N2C(=NC=C2)C | C18H18N4
